US07745438B2
(2R,3S,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3-propoxy-5-fluorophenyl)-propyl]-2-(3-fluoro-2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester
Stir a mixture of sodium hydride (115 mg, 2.89 mmol, 60% in mineral oil) in N-methyl-2-pyrrolidinone (960 μL) and 1-propanol (234 μL) for 10 minutes and then add a solution of (2R,3S,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-(3-fluoro-2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester (440 mg, 0.57 mmol) in N-methyl-2-pyrrolidinone (1 mL) and stir in a sealed vial at 90° C. for 4 hours. Cool to room temperature and pour reaction mixture into water and extract well with ethyl acetate. Wash the organic phase with water followed by saturated aqueous sodium chloride and concentrate under reduced pressure. Subject the resulting residue to silica gel chromatography, eluting with hexane containing from 0-50% ethyl acetate to provide the desired compound.

reactant | sodium hydride | 2.89 mmol, 115 mg | [H-].[Na+]
reactant | (2R,3S,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-(3-fluoro-2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 0.57 mmol, 440 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)OCC(CF)(C)C)C | C45H55F3N2O5
reactant | water | O | H2O
reactant | N-methyl-2-pyrrolidinone | 960 μL | CN1C(CCC1)=O | C5H9NO
reactant | N-methyl-2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
solvent | 1-propanol | 234 μL | C(CC)O | C3H8O
product | (2R,3S,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3-propoxy-5-fluorophenyl)-propyl]-2-(3-fluoro-2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)OCCC)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)OCC(CF)(C)C)C | C48H62F2N2O6
